US05296454
2-(3-thienyl)propionic acid methyl ester (26.6 g) was added to a water:ethanol (1:4) solution of potassium hydroxide, followed by one-hour refluxing. The reaction was carried out in a similar manner to the foregoing Example 8 to obtain 22.9 g 2-(3-thienyl) propionic acid nD20 1.5361.

reactant | 2-(3-thienyl)propionic acid methyl ester | 26.6 g | COC(C(C)C1=CSC=C1)=O | C8H10O2S
reactant | potassium hydroxide | [OH-].[K+]
solvent | water ethanol | O.C(C)O
product | 2-(3-thienyl) propionic acid | 22.9 g | S1C=C(C=C1)C(C(=O)O)C | C7H8O2S
